US06797823B1
N-(2-Methoxy-4-{[6-methoxy-7-(4-pyridylmethoxy)-4quinolyl]oxy}phenyl)-N′-propylurea
A starting compound (N-{4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]-2-methoxyphenyl}-N′-propylurea, 80 mg), potassium carbonate (138 mg), and 4-chloromethylpyridine hydrochloride (48 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC by development with chloroform/methanol to give 65 mg (yield 67%) of the title compound.

reactant | N-{4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]-2-methoxyphenyl}-N′-propylurea | OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NCCC)OC)OC | C21H23N3O5
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethylpyridine hydrochloride | 48 mg | Cl.ClCC1=CC=NC=C1
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2-Methoxy-4-{[6-methoxy-7-(4-pyridylmethoxy)-4quinolyl]oxy}phenyl)-N′-propylurea | 65 mg, yield 67% | COC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCC1=CC=NC=C1)NC(=O)NCCC | C27H28N4O5
